US08609644B2
Following the procedure described above for the preparation 3,3:17,17-bis(ethylendioxy)-6-methyleneandrostane (Prepn. 8) and starting from 17,17-(ethylendioxy)-5α-hydroxyandrostane-3-one, 17,17-(ethylendioxy)-3-methylene-androstane-5α-ol was obtained in 98% yield. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 4.62 (m, 1H), 4.50 (m, 1H), 3.78 (m, 4H), 3.42 (s, 1H), 2.36-1.03 (m, 21H), 0.93 (s, 3H), 0.75 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-6-methyleneandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC(C3CCCC[C@]3(C)[C@H]1CC4)=C | C24H36O4
reactant | 17,17-(ethylendioxy)-5α-hydroxyandrostane-3-one | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC[C@]4(CC(CC[C@]4(C)[C@H]2CC3)=O)O)OC1 | C21H32O4
product | 17,17-(ethylendioxy)-3-methylene-androstane-5α-ol | 98% yield | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC[C@]4(CC(CC[C@]4(C)[C@H]2CC3)=C)O)OC1 | C22H34O3
